US07034039B2
A mixture of tert-butyl[2-isobutyl-6-(5-methyl-1,3,4-oxadiazol-2-yl)-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.20 g, 0.41 mmol) and 4N hydrogen chloride ethyl acetate solution (4 mL) was stirred for 17 h at room temperature. The reaction mixture was concentrated, the residue was washed with diisopropyl ether (5 mL×2) to give a pale yellow powder. The powder was added to aqueous saturated sodium hydrogencarbonate (30 mL), the resulting mixture was extracted with ethyl acetate-tetrahydrofuran (1:1, v/v, 50 mL×2). The organic layers were combined, washed with brine (25 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=20:1 (v/v)) and recrystallized from n-hexane-ethyl acetate to give 3-(aminomethyl)-2-isobutyl-6-(5-methyl-1,3,4-oxadiazol-2-yl)-4-phenyl-1(2H)-isoquinolinone (0.11 g, 72%) as pale yellow crystals.

reactant | tert-butyl[2-isobutyl-6-(5-methyl-1,3,4-oxadiazol-2-yl)-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.41 mmol, 0.20 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1OC(=NN1)C)=O)CC(C)C)=O | C28H32N4O4
reactant | hydrogen chloride ethyl acetate | 4N, 4 mL | C(C)OC(C)=O.Cl
solvent | sodium hydrogencarbonate | 30 mL | C(O)([O-])=O.[Na+]
product | 3-(aminomethyl)-2-isobutyl-6-(5-methyl-1,3,4-oxadiazol-2-yl)-4-phenyl-1(2H)-isoquinolinone | 0.11 g, 72% | NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1OC(=NN1)C)=O)CC(C)C | C23H24N4O2
